US08242133B2
To a mixture of 0.30 g of 4-(5-tert-butylbenzoxazole-2-yl)pyridin-3-ol, 0.17 g of potassium carbonate and 3 ml of DMF, 0.21 g of isopropyl iodide was added at room temperature. The reaction mixture was stirred while heating at 60° C. for two hours. The mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.21 g of 5-tert-butyl-2-(3-isopropoxypyridin-4-yl)benzoxazole (hereinafter, referred to as “active compound 104”).

reactant | 4-(5-tert-butylbenzoxazole-2-yl)pyridin-3-ol | 0.30 g | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C2=C(C=NC=C2)O)C1 | C16H16N2O2
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | isopropyl iodide | 0.21 g | C(C)(C)I | C3H7I
solvent | water | O | H2O
product | 5-tert-butyl-2-(3-isopropoxypyridin-4-yl)benzoxazole | 0.21 g | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C2=C(C=NC=C2)OC(C)C)C1 | C19H22N2O2
